US09380782B2
A mixture of the above-mentioned 1-(2-methyl-3-iodophenyl)-1,4-dihydrotetrazole-5-one, potassium carbonate 17.40 g, dimethyl sulfate 5.78 g and N,N-dimethylformamide 150 mL was stirred at 25° C. for one hour. To the reaction mixtures was added aqueous saturated sodium bicarbonate solution and the mixtures were extracted with ethyl acetate. The organic layers were washed with aqueous saturated sodium bicarbonate solution and were dried over anhydrous sodium sulfate. The resulting mixtures were concentrated under reduced pressure to give 1-(2-methyl-3-iodophenyl)-4-methyl-1,4-dihydrotetrazole-5-one (hereinafter, referred to as “Intermediate (PRI-P)”) 8.10 g.

reactant | 1-(2-methyl-3-iodophenyl)-1,4-dihydrotetrazole-5-one | CC1=C(C=CC=C1I)N1N=NNC1=O | C8H7IN4O
reactant | potassium carbonate | 17.40 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 5.78 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
product | 1-(2-methyl-3-iodophenyl)-4-methyl-1,4-dihydrotetrazole-5-one | CC1=C(C=CC=C1I)N1N=NN(C1=O)C | C9H9IN4O
